US07642264B2
2-Chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (4.08 g, 12.5 mmol) and phosphoryl chloride (40 mL) according to the general procedure I. Obtained as a yellow solid (4.26 g, 99%). MS (EI) 344.0 [(M)+]; mp 41° C.

reactant | 4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 12.5 mmol, 4.08 g | FC=1C=C(C=CC1C(F)(F)F)C1=NC(NC(=C1)C(F)(F)F)=O | C12H5F7N2O
reactant | phosphoryl chloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)F)C(F)(F)F | C12H4ClF7N2
